US05075310
6-(2-Propoxyphenyl)pyrazolo[3,4-d]pyrimidin-4(5H)-one
A stirred mixture of 2-propoxybenzamidine methanesulphonate (1.0 g), 3-amino-4-pyrazolecarboxamide sulphate (0.5 g) and sodium acetate (0.82 g) was heated in an oil bath (180° C.) for one hour. The reaction mixture was dissolved in hot 2 Normal sodium hydroxide (10 ml) and the solution was treated with charcoal and neutralised with glacial acetic acid. A precipitate was collected, washed with water and eluted from a silica column with chloroform. The combined fractions containing product were evaporated to dryness to afford the title compound, 148 mg, m.p. 182°-183.5° C.

reactant | 2-propoxybenzamidine methanesulphonate | 1.0 g | CS(=O)(=O)O.C(CC)OC1=C(C(=N)N)C=CC=C1
reactant | 3-amino-4-pyrazolecarboxamide sulphate | 0.5 g | S(=O)(=O)(O)O.NC1=NNC=C1C(=O)N
reactant | sodium acetate | 0.82 g | C(C)(=O)[O-].[Na+]
reactant | charcoal | C | CH4
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(2-Propoxyphenyl)pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(CC)OC1=C(C=CC=C1)C1NC(C=2C(=N1)N=NC2)=O | C14H14N4O2
